US06274729B1
A portion of 4-nitrophthalonitrile (5.15 g, 29.8 mmole) was dissolved in 125 mL methanol in a hydrogenation flask. The catalyst, 10% Pd/C (515 mg), was added to the mixture which was thin flushed with H2 and stirred under 50 psi of H2 for 1 hour. The catalyst was removed by filtration and the solvent was distilled off under vacuum. The desired 4-aminophthalonitrile was obtained in 86% yield (3.668 g).

reactant | 4-nitrophthalonitrile | 29.8 mmole, 5.15 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
solvent | methanol | 125 mL | CO | CH4O
catalyst | Pd/C | 515 mg | [Pd] | Pd
product | 4-aminophthalonitrile | 86% yield | NC=1C=C(C(C#N)=CC1)C#N | C8H5N3
